US04720495
4.01 g (0.01 mole) of 9-fluoro-5-methyl-8-(3-methyl-1-piperazinyl)-6,7-dihydro-1, 7-dioxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid ethyl ester was suspended in a mixture of 20 ml of ethanol and 20 ml of 6N hydrochloric acid, and this suspension was stirred at 80°-90° C. for 5 hours to hydrolyze the starting material. The resulting reaction solution was adjusted to pH 7-8 by the addition of 28% aqueous ammonia under cooling with ice. The precipitate which separated out was collected by filtration and recrystallized from a water-ethanol mixture (with a volume ratio of 1:1) to obtain 2.69 g (72.0% yield) of 9-fluoro-5-methyl-8-(3-methyl-1-piperazinyl)-6,7-dihydro-1, 7-dioxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid in the form of yellow crystals. These crystals had a melting point of 231°-234° C. (dec.) .

reactant | 9-fluoro-5-methyl-8-(3-methyl-1-piperazinyl)-6,7-dihydro-1, 7-dioxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid ethyl ester | 0.01 mole, 4.01 g | C(C)OC(=O)C1=CN2C(CC(C3=C2C(C1=O)=CC(=C3N3CC(NCC3)C)F)=O)C | C21H24FN3O4
reactant | ammonia | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | 9-fluoro-5-methyl-8-(3-methyl-1-piperazinyl)-6,7-dihydro-1, 7-dioxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid | 2.69 g, 72.0% yield | FC1=C(C=2C(CC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)=O)N1CC(NCC1)C | C19H20FN3O4
